US08937083B2
Preparation of 1-ethyl-3-(3-methyl-1-(pyridin-3-yl)-1H-pyrazol-4-yl)urea (Compound 145)
To a solution of 3-methyl-1-(pyridin-3-yl)-1H-pyrazol-4-amine (0.1 g, 0.574 mmol) in DCM (5.74 ml) was added ethyl isocyanate (0.041 g, 0.574 mmol) and the reaction mixture was stirred at ambient temperature for 40 minutes. The reaction mixture had turned from a clear solution to a suspension with white solid material. The reaction mixture was concentrated and purified using silica gel chromatography (0-20% MeOH/DCM) to yield the title compound as a white solid (0.135 g, 95%): mp 197-200° C.; 1H NMR (400 MHz, CDCl3) δ 8.94 (d, J=2.3 Hz, 1H), 8.48-8.37 (m, 1H), 8.32 (s, 1H), 7.94 (d, J=8.3 Hz, 1H), 7.52 (br s, 1H), 7.41-7.25 (m, 1H), 5.79 (br s, 1H), 3.33-3.23 (m, 2H), 2.29 (d, J=2.9 Hz, 3H), 1.16 (dd, J=8.7, 5.7 Hz, 3H); ESIMS m/z 246 ([M+H]+), 244 ([M−H]−).

reactant | 3-methyl-1-(pyridin-3-yl)-1H-pyrazol-4-amine | 0.574 mmol, 0.1 g | CC1=NN(C=C1N)C=1C=NC=CC1 | C9H10N4
reactant | ethyl isocyanate | 0.574 mmol, 0.041 g | C(C)N=C=O | C3H5NO
solvent | DCM | 5.74 ml | C(Cl)Cl | CH2Cl2
product | 1-ethyl-3-(3-methyl-1-(pyridin-3-yl)-1H-pyrazol-4-yl)urea | 0.135 g, 95% | C(C)NC(=O)NC=1C(=NN(C1)C=1C=NC=CC1)C | C12H15N5O
